US06054445
(±)-trans-4-Trifluoromethyl-N-methyl-N-[2-(1-pyrrolidinyl)cyclohexyl]-phenylacetamide Hydrochloride [(±)5g HCl]
To a solution of 4-trifluoromethylphenyl acetic acid (1.45 g, 7.08 mmol) in 10 mL of dry CH2Cl2 under a nitrogen atmosphere was added 1-hydroxybenzotriazole hydrate (HOBT) (0.95 g, 7.08 mmol) and stirred. The reaction mixture was cooled to 0→5oC and added solid EDCI ([1-(3-dimethylaminopropyl)-3-ethyl-carbodiimide HCl])(1.35 g, 7.08 mmol) and stirrat this temperature for 30 min. A solution (±) 3(1.0 g, 5.48 mmol) in 10 mL of dry CH2Cl2 was added followed by N,N-diisopropylethylamine (Hunig's Base) (0.915 g, 7.08 mmol). The reaction mixture was stirred for 24 h while warming to the room temperature. The reaction mixture was then poured on to excess of ice-cold saturated aqueous NaHCO3solution and stirred for 30 min. After dilution with CH2Cl2, the organic was separated, washed with saturated salt solution, and dried over anhydrous Na2SO4. Removal of solvent gave a brown oil which was chromatogrphed on a silica gel column [solvent system: CH2Cl2 :CH3OH:28% NH4OH (99:1:2)] to give the desired product as free base. The hydrochloride salt was prepared from 1M etherial HCl and recrystallized from CH2Cl2 :Et2O (1:1) to give (±) 5g HCl as a cream colored solid, 0.68 g (30%); 213-215° C.; 1H NMR (200 MHz, CDCl3)δ1.02-1.47 (m, 4H), 1.52-2.22 (m, 8H), 2.75-2.90 (m, 2H), 2.94 (s, 3H), 3.07 (m, 1H), 3.37 (m, 1H), 3.62 (d, J=15.0 Hz, 1H), 3.77 (m, 1H), 4.17 (d, J=15.0 Hz, 1H), 4.57 (m, 1H), 7.30 (d, J=8.0 Hz, 2H), 7.38 (d, J=8.0 Hz, 2H). Anal. Calcd for C20H27F3N2O.HCl.0.25H2O: C, 58.68; H, 7.02; N, 6.84. Found: C, 58.68; H, 6.84; N, 6.69.

reactant | 4-trifluoromethylphenyl acetic acid | 7.08 mmol, 1.45 g | FC(C1=CC=C(C=C1)CC(=O)O)(F)F | C9H7F3O2
reactant | 1-hydroxybenzotriazole hydrate | 7.08 mmol, 0.95 g | O.ON1N=NC2=C1C=CC=C2
reactant | EDCI | 7.08 mmol, 1.35 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | N,N-diisopropylethylamine | 7.08 mmol, 0.915 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | NH4OH | [NH4+].[OH-]
reactant | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
reactant | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | CH3OH | CO | CH4O
product | (±)-trans-4-Trifluoromethyl-N-methyl-N-[2-(1-pyrrolidinyl)cyclohexyl]-phenylacetamide Hydrochloride | Cl.FC(C1=CC=C(C=C1)CC(=O)N([C@H]1[C@@H](CCCC1)N1CCCC1)C)(F)F | InChI=1S/C20H27F3N2O.ClH/c1-24(17-6-2-3-7-18(17)25-12-4-5-13-25)19(26)14-15-8-10-16(11-9-15)20(21,22)23;/h8-11,17-18H,2-7,12-14H2,1H3;1H/t17-,18-;/m1./s1
